Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
================
___ 03:10PM BLOOD WBC-14.7* RBC-5.67 Hgb-16.9 Hct-49.3 
MCV-87 MCH-29.8 MCHC-34.3 RDW-13.5 RDWSD-43.4 Plt ___
___ 03:10PM BLOOD Neuts-72.2* Lymphs-18.1* Monos-9.0 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.61* AbsLymp-2.66 
AbsMono-1.32* AbsEos-0.02* AbsBaso-0.03
___ 03:10PM BLOOD ___ PTT-28.8 ___
___ 03:10PM BLOOD Glucose-118* UreaN-10 Creat-1.2 Na-145 
K-4.2 Cl-102 HCO3-26 AnGap-17
___ 03:10PM BLOOD ALT-23 AST-32 AlkPhos-73 TotBili-0.5
___ 03:10PM BLOOD Albumin-4.8 Calcium-9.7 Phos-4.2 Mg-1.9
___ 03:26PM BLOOD K-3.5

PERTINENT LABS:
================
___ 03:10PM BLOOD Lipase-98*
___ 03:10PM BLOOD ALT-23 AST-32 AlkPhos-73 TotBili-0.5

MICRO:
========
NONE

IMAGING:
==========
MR CERVICAL SPINE W/O CONTRAST ___
IMPRESSION:
1. The previously seen minimally displaced C6 anterior superior 
corner
fracture demonstrates associated bone marrow edema, focal 
disruption of the anterior longitudinal ligament, and mild 
prevertebral edema extending along the cervical spine.
2. Interspinous ligament edema at C4-C5, and to a lesser extent 
at C5-C6 and C2-C3, without clear evidence for ligamentum flavum 
edema or disruption. Overlying edema in the midline posterior 
paravertebral soft tissues along the cervical spine.
3. High signal on STIR images in the C3-C4 disc, without disc 
disruption, and without extension to the anterior longitudinal 
posterior longitudinal
ligament, most likely degenerative in etiology.
4. No evidence for epidural collection or spinal cord signal 
abnormality.
5. Multilevel degenerative disease.  Spinal canal narrowing is
mild-to-moderate at C4-C5 and mild at other levels.  Advanced 
neural foraminal narrowing at multiple levels, as detailed 
above.
   
DISCHARGE LABS:
=================
___ 06:51AM BLOOD WBC-12.1* RBC-5.43 Hgb-16.2 Hct-47.9 
MCV-88 MCH-29.8 MCHC-33.8 RDW-13.9 RDWSD-44.8 Plt ___
___ 06:51AM BLOOD Plt ___
___ 06:51AM BLOOD Glucose-89 UreaN-12 Creat-1.1 Na-143 
K-3.9 Cl-102 HCO3-26 AnGap-15
___ 06:51AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.0

DISCHARGE PHYSICAL EXAM:
============================
VITALS:24 HR Data (last updated ___ @ 742)
    Temp: 98.0 (Tm 98.5), BP: 156/108 (144-156/92-108), HR: 97
(97-100), RR: 18, O2 sat: 97% (95-97), O2 delivery: Ra    
GENERAL: Alert and interactive. In no acute distress. Wearing
C-collar.
EYES: Laceration across crown of caput with 3 staples and dried
blood around site. PERRL, EOMI. Sclera anicteric and without
injection. 
ENT: MMM. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
MSK: No spinous process tenderness. No CVA tenderness. No
clubbing, cyanosis, or edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout, including
with thumb flexion/extension/abduction/adduction. Normal
sensation. AOx3.
PSYCH: appropriate mood and affect
 
Brief Hospital Course:
___ male presenting after MVC found to have C6 avulsion 
fracture and a superficial scalp laceration that required 3 
staples. In the ER his course was complicated by two episodes of 
emesis after receiving IV pain medication and uncontrolled 
hypertension (SBP in the 200s) in the setting of medication 
non-adherence. He was evaluated by ortho-spine and placed in a 
hard C-collar with instructions to wear it at all times and 
___ in outpatient clinic in ___ weeks. For his 
hypertension, he was re-started on his amlodipine 10 mg and his 
lisinopril was uptitrated to 10 mg daily. He was lost to 
___ with his PCP and did not have refills of his 
medications which may account for his uncontrolled hypertension, 
in addition to pain, n/v. He was observed for one night in the 
hospital, did not have recurrence of coffee ground emesis and 
remained asymptomatic from hypertension, and was then discharged 
home after medications delivered to his bedside (lisinopril 10 
mg, amlodipine 10 mg, and simvastatin 20 mg).

TRANSITIONAL ISSUES:
=======================
[] Patient presented s/p MVC with imaging c/w avulsion fracture 
at C6. He was recommended to wear C-collar at all times until 
___ follow up arranged on ___. Patient also advised 
to avoid lifting, bending and twisting.
[] Patient has staples in place for head laceration. Should be 
removed at PCP follow up in ___
[] BP control: patient started on lisinopril 10mg daily and 
amlodipine 10mg daily. Please titrate BP medications as 
necessary in outpatient setting.
[] Patient re-initiated on lisinopril 10mg daily during 
admission. Please check electrolytes at PCP ___.
[] Please obtain a baseline EKG at patient's scheduled PCP 
___.
[] Patient previously taking simvastatin 20mg qPM several 
months. Restarted on admission. Consider rechecking cholesterol 
panel and LFTs in outpatient setting and possibly uptitrate 
statin dosing.
[] Patient previously taking vitamin D supplement daily. Please 
recheck vitamin D level in outpatient setting and consider 
restarting supplementation.

ACUTE ISSUES:
=============
#Hypertesnive urgency
SBPs in the 200s on admission and in the past he was prescribed 
multiple medications, including amlodipine, chlorthalidone and 
lisinopril. He stated that he has not been taking medications 
for several months since his prescriptions ran out over a year 
ago and he encountered problems scheduling a PCP ___ and 
forgot to call back to make an appointment. During this 
hospitalization, he was restarted on amlodipine 10mg daily as 
well as captopril TID, which was converted and uptitrated to 
lisinopril 10mg qd on day of discharge. His blood pressure 
medications should be titrated in the outpatient setting as he 
will likely require an increased dose of lisinopril. He was 
counseled on lifestyle changes to improve his blood pressure as 
well. Also, his electrolytes should be checked at his PCP 
___ appointment in the setting of re-initiation of ACEI.

#C6 avulsion fracture s/p MVC
#Neck pain
#Multilevel degenerative changes of cervical spine
Patient presented s/p MVC. CT C-spine and CT head performed at 
OSH significant for avulsion fracture at C6 and on exam he has 
paresthesias bilaterally in his thumbs and forearms in a C6 
dermatomal distribution. MR of the cervical spine was notable 
for bone marrow edema, focal disruption of the anterior 
longitudinal ligament, and mild prevertebral edema extending 
along the cervical spine, as well as multiple other acute 
findings which likely explain his thumb parasthesias. Also 
chronic findings indicating degenerative disease. See report for 
full details. Ortho spine was consulted and recommend patient 
wear C-collar at all times until follow up in ___ weeks for 
repeat imaging (can shower below the brace). Patient advised to 
avoid all bending, lifting and twisting until outpatient spine 
center follow up. Patient also with staples in place to head 
laceration that were placed at OSH and should be removed ___ 
after placement (___), at PCP follow up.

#Emesis
2 episodes of emesis in ED after receiving IV pain medications, 
initially reported as coffee-ground emesis. Once admitted, 
patient tolerating PO intake without nausea/vomiting. Unclear 
from pt history if it was hematemasis or just dark brown emesis. 
Less likely to be a ___ tear with no prior history of 
liver disease, NSAID/steroid use and Hgb stable. Trauma surgery 
was consulted in the ER and thought hematemesis likely 
non-traumatic in origin and recommended discharge home with 
close PCP follow up pending need for GIB work up. CBC was 
trended and was stable. PCP should consider GI referral in 
outpatient setting if ongoing concern for UGIB.

CHRONIC ISSUES:
===============
#HLD
Patient previously taking simvastatin 20mg qPM several months. 
Restarted on admission.

#Vitamin D deficiency
Patient previously taking vitamin D supplement daily, but no 
longer.

#CODE: Full Code, presumed
#CONTACT: ___ number: ___
 
Medications on Admission:
NONE
 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Lisinopril 10 mg PO DAILY  
3.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Hypertensive urgency
#Emesis
#C6 avulsion fracture s/p MVC
#HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital because you had a minor car 
accident and after you had numbness in your hands  

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You had a picture (MRI) of the spine that showed that you 
fractured your C6 vertebrae and you were given a neck brace to 
wear for your fracture.

- You had 3 staples placed on your scalp from a cut from the car 
accident. These will need to be removed in ___ days. 

- Your blood pressure was very high (200/100) and you were 
started back on medications to treat your high blood pressure 
(amlodipine and lisinopril)  

- You had an episode of vomiting after receiving pain 
medications but that resolved on its own

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

- Please wear your C-collar at all times until you are 
re-evaluated at your follow up appointment with the spine 
specialists on ___. Please avoid lifting, bending, and 
twisting. 

We wish you all the ___!

Sincerely,  

Your ___ Care Team  
 
Followup Instructions:
___